US07435815B2
6-Dimethylamino-pyridine-2-carboxylic acid ethylamide
prepared by reaction of dimethyl-amine with 6-bromo-pyridine-2-carboxylic acid ethylamide

reactant | dimethyl-amine | CNC | C2H7N
reactant | 6-bromo-pyridine-2-carboxylic acid ethylamide | C(C)NC(=O)C1=NC(=CC=C1)Br | C8H9BrN2O
product | 6-Dimethylamino-pyridine-2-carboxylic acid ethylamide | C(C)NC(=O)C1=NC(=CC=C1)N(C)C | C10H15N3O
